US04687775
Reaction of 30 g (0.22 mole) of 4,5-dimethyl-1,2-phenylenediamine with potassium ethylxanthate using the method described in Example 10 yielded 19 g of 5,6-dimethyl-2-mercaptobenzimidazole, as confirmed by the nmr and infrared spectra and by elemental analysis. The title compound (591 mg) was prepared by the method of Example 6 using 8-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt and using 1.32 g (7.44 mmole) of 2-mercapto-4-methylbenzimidazole instead of 2-mercapto-5-methoxybenzimidazole. The compound was used in subsequent reactions without further characterization.

reactant | 4,5-dimethyl-1,2-phenylenediamine | 0.22 mole, 30 g | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | potassium ethylxanthate | C(C)OC(=S)[S-].[K+]
product | 5,6-dimethyl-2-mercaptobenzimidazole | 19 g | CC1=CC2=C(N=C(N2)S)C=C1C | C9H10N2S
